US08236808B2
Step 1: {2-[(3,5-Diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-methyl-carbamic acid tert-butyl ester
A solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid (3.85 g, 20.5 mmol) in DMF (90 mL) is treated with CDI (6.64 g, 41 mmol) and stirred at RT for 1 h. To this mixture is added N-(2-aminoethyl)-N-methyl carbamic acid tert-butyl ester (5.0 g, 28.6 mmol) and stirring continues at RT for 72 h. The solvent is removed in vacuo and the residue is partitioned between EtOAc (100 mL) and water (60 mL). The organic portion is separated, dried (MgSO4) and concentrated in vacuo. The resulting yellow residue is washed with diethyl ether to afford the title compound which is used in the next step without further purification. [M+H]+ 345.

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid | 20.5 mmol, 3.85 g | NC=1C(=NC(=C(N1)N)Cl)C(=O)O | C5H5ClN4O2
reactant | CDI | 41 mmol, 6.64 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-(2-aminoethyl)-N-methyl carbamic acid tert-butyl ester | 28.6 mmol, 5.0 g | C(C)(C)(C)OC(N(C)CCN)=O | C8H18N2O2
solvent | DMF | 90 mL | CN(C)C=O | C3H7NO
product | {2-[(3,5-Diamino-6-chloro-pyrazine-2-carbonyl)-amino]-ethyl}-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)CCNC(=O)C1=NC(=C(N=C1N)N)Cl)=O | C13H21ClN6O3
